US08809383B2
(Tetrahydro-2H-pyran-2-ylmethyl)hydrazine dihydrochloride
A solution of the Compound (Ih) (10 g, 58 mmol), 2-(tetrahydropyranyl)methylbromide (10 mL, 81 mmol), potassium hydroxide (4.89 g, 87 mmol) and tetrabutylammonium sulfate (1.97 g, 5.8 mmol) in toluene (200 mL) was heated under reflux for 9 hours. To the reaction mixture was added water (200 mL), and the aqueous layer was extracted with ethyl acetate (200 mL). The combined organic layers were dried over anhydrous MgSO4 and the solvent was evaporated under reduced pressure. The concentrated residue was purified by silica gel column chromatography (n-hexane/ethyl acetate) to give Compound (IIh) (9.30 g). The Compound (IIh) was dissolved in a mixed solvent of methanol (65 mL) and chloroform (30 mL), to the solution was added 4 mol/L HCl/1,4-dioxane (65 mL) at room temperature, and the reaction mixture was stirred at 50° C. for 1 hour. The solvent was evaporated under reduced pressure, to the concentrated residue was added ethyl acetate (100 mL), and the mixture was stirred for 1 hour at room temperature. The resulting precipitate was collected by filtration, washed with ethyl acetate (5 mL) twice, and dried under reduced pressure to give the title Compound (IIIh) (6.79 g, 70%) as a white solid.

reactant | potassium hydroxide | 87 mmol, 4.89 g | [OH-].[K+]
reactant | tetrabutylammonium sulfate | 5.8 mmol, 1.97 g | S(=O)(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 200 mL | O | H2O
reactant | HCl 1,4-dioxane | 4 mol/L, 65 mL | Cl.O1CCOCC1
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 65 mL | CO | CH4O
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | (Tetrahydro-2H-pyran-2-ylmethyl)hydrazine dihydrochloride | 6.79 g, 70% | Cl.Cl.O1C(CCCC1)CNN | InChI=1S/C6H14N2O.2ClH/c7-8-5-6-3-1-2-4-9-6;;/h6,8H,1-5,7H2;2*1H
